US04310655
p-(1,1-Dimethyl-2-hydroxyethyl)benzoic acid
p-(1,1-Dimethyl-2-hydroxyethyl)cyanobenzene, 75 g, 0.43 mole, was dissolved in a solution of ethylene glycol, 150 mL, and water, 50 mL, at 80° C. in a 2-L flask. The above solution was then heated on an oil bath with good stirring to 135°-140° C. A solution of 50% aqueous NaOH, 140 mL, in 150 mL water was added dropwise at such a rate that a gentle reflux was maintained, and the resulting clear solution was allowed to reflux until no more ammonia could be detected The solution was then diluted while still hot with 500 mL water and then allowed to cool to room temperature. The cooled solution was extracted twice with 100 mL portions of ether and the ether layers discarded. The aqueous layer was heated on a steam bath to expel any trapped ether, cooled to 0° C. and acidified with conc. HCl. The precipitated hydroxyacid was filtered, washed with 150 mL ice-cold water and dried in a vacuum oven at 50° C. The crude yield was 80 g (96%), mp=154°-156° C. The material was recrystallized once from water/methanol (3/1 vol.) ca. 1100 mL and three more times from boiling water. The final mp=156°-157° C. vs. 158°-159° C. (Heck et al., above).

reactant | p-(1,1-Dimethyl-2-hydroxyethyl)cyanobenzene | CC(CO)(C)C1=CC=C(C=C1)C#N | C11H13NO
reactant | NaOH | [OH-].[Na+]
reactant | ammonia | N | H3N
reactant | ethylene glycol | C(CO)O | C2H6O2
solvent | water | O | H2O
solvent | water | 150 mL | O | H2O
solvent | water | 500 mL | O | H2O
product | p-(1,1-Dimethyl-2-hydroxyethyl)benzoic acid | CC(CO)(C)C1=CC=C(C(=O)O)C=C1 | C11H14O3
